US05496951
The whole of the diethyl-3-difluoromethoxy-2,4,5trifluorobenzoylmalonate [(XIV), R1 =--OCHF2, R3' =H, R17 =C2H5, X=X'=F] [prepared as described in step (a) above] was dissolved in 200 ml of dioxane, and then 4.52 g (0.0238 moles) of p-toluenesulfonic acid monohydrate were added to the resulting solution. The mixture was then heated under reflux for 6 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure. 100 ml of water and 2.52 g (0.03 moles) of sodium bicarbonate were added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure to give 5.66 g of ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylacetate as a reddish brown liquid.

reactant | diethyl-3-difluoromethoxy-2,4,5trifluorobenzoylmalonate | C(C)C1(C(=C(C(=C(C1C(=O)C(C(=O)[O-])C(=O)[O-])F)OC(F)F)F)F)CC
reactant | p-toluenesulfonic acid monohydrate | 0.0238 moles, 4.52 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | 0.03 moles, 2.52 g | C([O-])(O)=O.[Na+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylacetate | 5.66 g | FC(OC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F)F | C12H9F5O4
